US09127024B2
Step 7: Synthesis of N′-(tert-butyl)-N′-(3,5-dimethylbenzoyl)-7-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborole-6-carbohydrazide (Cpd. No. 58)
3,5-dimethylbenzoyl chloride (0.076 g, 0.451 mmol) in a round bottom flask was dissolved in diethyl ether (2.0 ml). To this, N′-(tert-butyl)-7-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborole-6-carbohydrazide (0.100 g, 0.376 mmol) was added following by TEA (0.105 ml, 0.752 mmol). After triethyl amine addition a precipitant came out of solution. After 90 min of stirring, another equivalent of TEA was added and reaction was allowed to stir for 60 min at room temperature. The solvent was evaporated and the residue was purified by using preparative HPLC to give Cpd. No. 58. 1H NMR (400 MHz, DMSO-d6) δ 10.39 (s, 1H), 6.97 (d, J=7.7 Hz, 1H), 6.89-6.83 (m, 3H), 6.72-6.64 (m, 1H), 4.76 (s, 2H), 2.04 (d, J=4.5 Hz, 6H), 1.29 (s, 9H).

reactant | 3,5-dimethylbenzoyl chloride | 0.451 mmol, 0.076 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | N′-(tert-butyl)-7-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborole-6-carbohydrazide | 0.376 mmol, 0.100 g | C(C)(C)(C)NNC(=O)C=1C=CC2=C(B(OC2)O)C1F | C12H16BFN2O3
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 2.0 ml | C(C)OCC | C4H10O
product | N′-(tert-butyl)-N′-(3,5-dimethylbenzoyl)-7-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborole-6-carbohydrazide | C(C)(C)(C)N(NC(=O)C=1C=CC2=C(B(OC2)O)C1F)C(C1=CC(=CC(=C1)C)C)=O | C21H24BFN2O4
